US07166598B2
To a solution of (2R)-1-tert-butoxycarbonyl-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-methoxymethylmorpholino]ethyl]piperazine (13.43 g) in dichloromethane (67.0 ml) was added trifluoroacetic acid (67.0 ml) at 0° C. After stirring at room temperature for 30 minutes, the mixture was concentrated and was added dropwise saturated aqueous sodium hydrogen carbonate solution. After stirring at room temperature for 30 minutes, the mixture was extracted with dichloromethane (100 ml×1, 50 ml×2). The combined extracts were dried over magnesium sulfate and evaporated under reduced pressure to give (2R)-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-methoxymethylmorpholino]ethyl]piperazine (11.63 g) as a brown oil.

reactant | (2R)-1-tert-butoxycarbonyl-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-methoxymethylmorpholino]ethyl]piperazine | 13.43 g | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)CCN1C[C@H](OCC1)COC)CC1=CC(=C(C=C1)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C41H59N3O5Si
reactant | trifluoroacetic acid | 67.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 67.0 ml | ClCCl | CH2Cl2
product | (2R)-2-(3-tert-butyldiphenylsilyloxy-4-methylbenzyl)-4-[2-[(2S)-2-methoxymethylmorpholino]ethyl]piperazine | 11.63 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC=1C=C(C[C@H]2NCCN(C2)CCN2C[C@H](OCC2)COC)C=CC1C | C36H51N3O3Si
